US07291635B2
A solution of the title B compound in Example 9, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (7.00 g, 24.4 mmol) and DBU (3.71 g, 24.4 mmol) in CH2Cl2 (200 mL) is treated with the title B compound, 5-bromomethyl-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester (8.25 g, 25.7 mmol). The mixture is stirred at RT for 3 h and the solvent is evaporated. The residue is chromatographed over silica gel using 20%-50% EtOAc in hexane as the eluent to afford 5-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5]thiadiazolidin-2-ylmethyl]-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester as a yellow oil.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 24.4 mmol, 7.00 g | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | DBU | 24.4 mmol, 3.71 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-bromomethyl-thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester | 25.7 mmol, 8.25 g | C[Si](CCOC(=O)C=1SC(=CC1)CBr)(C)C | C11H17BrO2SSi
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | thiophene-2-carboxylic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(=O)C=1SC=CC1)(C)C | C10H16O2SSi
